US08809525B2
A crude solution of 6-(3,5-dichlorophenyl)-3-(methylsulfanyl)-1,2,4-triazin-5-yl methanesulfonate (5.43 mmol) in dioxane (3 mL), was treated with K2CO3 (1.0 g, 7.2 mmol) and 3-methyl piperidine (1.68 g, 16.9 mmol), and the resulting mixture was stirred at room temperature overnight. After completion of the reaction (TLC, ethyl acetate/hexane, 1:1), the mixture was poured into water (25 mL) and extracted with DCM or ethyl acetate (3×25 ml). The combined organic extracts were then dried over Na2SO4, concentrated in vacuo and purified by flash chromatography, eluting with 15% ethyl acetate in hexane to afford 6-(3,5-dichlorophenyl)-5-(3-methylpiperidin-1-yl)-3-(methylsulfanyl)-1,2,4-triazine (0.8 g, 40%).

reactant | 6-(3,5-dichlorophenyl)-3-(methylsulfanyl)-1,2,4-triazin-5-yl methanesulfonate | 5.43 mmol | CS(=O)(=O)OC=1N=C(N=NC1C1=CC(=CC(=C1)Cl)Cl)SC | C11H9Cl2N3O3S2
reactant | K2CO3 | 7.2 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methyl piperidine | 16.9 mmol, 1.68 g | CC1CNCCC1 | C6H13N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | 6-(3,5-dichlorophenyl)-5-(3-methylpiperidin-1-yl)-3-(methylsulfanyl)-1,2,4-triazine | 0.8 g, 40% | ClC=1C=C(C=C(C1)Cl)C1=C(N=C(N=N1)SC)N1CC(CCC1)C | C16H18Cl2N4S
